US06133294
5-(t-Butyl)-3-(5-chloro-6-methylthio-3-pyridinyl)-1,2,4-oxadiazole
5-Chloro-6-methylthio-N-hydroxy-3-pyridinecarboximidamide (1.0 g, 4.6 mmol) was slurried in toluene (20 mL) and trimethylacetyl chloride (0.61 g, 5.1 mmol) added. The mixture was stirred at room temperature for one hour and then heated under reflux conditions for four hours. This was then cooled and filtered through Celite, washing with additional toluene (20 mL). Evaporation of the solvent under reduced pressure and purification of the residue by chromatography over silica (0-10% ethyl acetate:hexane) gave the desired product as a white solid (0.77 g, 59%).

reactant | 5-Chloro-6-methylthio-N-hydroxy-3-pyridinecarboximidamide | 4.6 mmol, 1.0 g | ClC=1C=C(C=NC1SC)C(NO)=N | C7H8ClN3OS
reactant | trimethylacetyl chloride | 5.1 mmol, 0.61 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(t-Butyl)-3-(5-chloro-6-methylthio-3-pyridinyl)-1,2,4-oxadiazole | 0.77 g, 59% | C(C)(C)(C)C1=NC(=NO1)C=1C=NC(=C(C1)Cl)SC | C12H14ClN3OS
